US08420670B2
(2,3-Dichloro-benzyl)-(2-methylquinolin-4-yl)-amine
Preparation was made using a similar procedure as described in example 1, method 1.3. Starting materials were 4-chloro-2-methylquinoline and 2,3-dichlorobenzylamine.

reactant | 4-chloro-2-methylquinoline | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | 2,3-dichlorobenzylamine | ClC1=C(CN)C=CC=C1Cl | C7H7Cl2N
product | (2,3-Dichloro-benzyl)-(2-methylquinolin-4-yl)-amine | ClC1=C(CNC2=CC(=NC3=CC=CC=C23)C)C=CC=C1Cl | C17H14Cl2N2
